US06747023B1
1-[(6-tert-Butoxycarbonyl -4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine
In N,N-dimethylformamide (30 ml), 6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylic acid (WO94/21599) (742 mg), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-ethoxycarbonylpiperazine hydrochloride (WO96/10022) (1.00 g) and benzotriazol-1-yloxy-tris(pyrrolidino)phosphonium hexafluorophosphate (PyBOP®) (1.50 g) were dissolved. Triethylamine (0.40 ml) was added to the resulting solution, followed by stirring overnight at room temperature. After the reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue. The resulting mixture was washed with water and saturated aqueous NaCl solution and then, dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane ethyl acetate=4:1), whereby the title compound (505 mg, 30%) was obtained.

reactant | 6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylic acid | 742 mg | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)O | C12H16N2O4S
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-ethoxycarbonylpiperazine hydrochloride | 1.00 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(=O)OCC
reactant | benzotriazol-1-yloxy-tris(pyrrolidino)phosphonium hexafluorophosphate | 1.50 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | Triethylamine | 0.40 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[(6-tert-Butoxycarbonyl -4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl)C(=O)OCC | C29H33ClN4O7S2
